US07320994B2
{2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone
Dissolve {4-amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone (40.0 mg, 0.067 mmol) in THF (2 mL), add isoamylnitrite (12.0 mg, 13.8 μL, 0.101 mmol) and heat 72° C. for 0.5 h, then cool to RT. Pour the mixture through a plug of Celite® 1 cm and silica gel 2 cm. Concentrate the clear liquid to 1.5 mL and apply to a 2 mm chromatotron plate with CH2Cl2 and EtOAc and elute with a EtOAc/hexane gradient to provide 24 mg of the title compound. Exact Mass 586.1: MS (IS): m/z=586.9 (M+1); 1H NMR (300 MHz, CDCl3) 8.53 (bs, 1H), 7.87 (d, J=7.4 Hz, 1H), 7.72 (s, 1H), 7.45-7.00 (m, 9H), 5.37 (s, 2H).

reactant | {4-amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | 0.067 mmol, 40.0 mg | NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C29H18ClF6N5O
reactant | isoamylnitrite | 0.101 mmol, 13.8 μL, 12.0 mg | C(CC(C)C)ON=O | C5H11NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | 24 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=NC=CC=C2C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C29H17ClF6N4O
